2102-02-01 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Echo:Suboptimal image quality. Normal right ventricular cavity size
   with focal apical hypokinesis. Moderate pulmonary artery systolic
   hypertension. Abnormal interventricular septal motion. Mild aortic
   valve stenosis. Low normal global left ventricular systolic function.
   -Family mtg in AM to discuss care
   -became SOB overnight and lightheaded, turned off lasix and gave
   morphine-Sx resolved, restarted lasix several hours later
   -hypotensive in early AM-stopped lasix gtt
   - Hypertensive by morning rounds
   Patient reports hallucinations with Morphine and nausea, but her
   breathing is improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2102-1-31**] 12:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-1**] 12:07 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-1-31**] 07:35 AM
   Furosemide (Lasix) - [**2102-1-31**] 09:22 AM
   Morphine Sulfate - [**2102-2-1**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-1**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 84 (77 - 112) bpm
   BP: 139/55(74) {78/38(54) - 149/116(121)} mmHg
   RR: 13 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    583 mL
                                                                    134 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    523 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  1,269 mL
                                                                     70 mL
   Urine:
                                                                  1,269 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -686 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 608 (330 - 608) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 5.1 L/min
   Physical Examination
   Gen: Thin elderly lady in no acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: S1 & S2 regular without murmur
   Respiratory / Chest: Diminshed breath sounds with wheezes throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Poor DP pulses
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   270 K/uL
   11.6 g/dL
   135 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.8 mEq/L
   31 mg/dL
   93 mEq/L
   135 mEq/L
   33.9 %
   15.7 K/uL
        [image002.jpg]
                             [**2102-1-30**]  03:16 PM
                             [**2102-1-30**]  03:32 PM
                             [**2102-1-30**]  07:48 PM
                             [**2102-1-31**]  03:31 AM
                             [**2102-1-31**]  03:08 PM
                             [**2102-2-1**]  06:44 AM
   WBC
   18.1
   15.7
   Hct
   34.7
   33.9
   Plt
   237
   270
   Cr
   1.1
   1.0
   TropT
   0.41
   0.29
   0.26
   TCO2
   37
   Glucose
   148
   135
   Other labs: PT / PTT / INR:12.9/31.6/1.1, CK / CKMB /
   Troponin-T:191/23/0.26, Differential-Neuts:95.0 %, Lymph:2.5 %,
   Mono:2.3 %, Eos:0.2 %, Albumin:4.1 g/dL, Ca++:8.7 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: Interval worsening of RLL opacity
   Microbiology: BCx: Pending
   Assessment and Plan
   86 F w/ pmh of COPD on home O2 w/ recent COPD flare transferred from
   OSH w/ persistent dyspnea.
   # Dyspnea: Likely due to COPD with possible PNA. Patient is improved
   tolerating venturi mask today.  She did not tolerate Morphine as it
   caused
spaciness
 and hallucinations.
   - IV solumedrol 125 q8h
   - Frequent alb/ipratrop nebs
   - Currently on Venturi Mask, BiPAP as needed, titrate O2sats 88-92%
   - Hold Lasix now for hypotension this AM
   - Echo-f/u final read
   - Morphine for CP, air hunger
   - Restart home norvasc, consider non-dihydropyridine CCB for rate
   control to reduce cardiac demand
   - Vanc/zosyn to cover for possible HCAP
   - Hold on empiric heparin IV gtt for PE as lower probablity and already
   received fondaparinox at OSH
   # Leukocytosis: Likely due to recent prednisone as elevated but no left
   shift, although underlying infection such as pneumonia also
   possibility, improved today
   - Antibiotics per above, but add Levaquin to cover for atypicals
   - Trend fever curve, WBC count
   # HTN: Hold anti-hypertensives while BP tenuous
   #Hypercalcemia- Resolved.
   -Will continue to follow and obtain albumin to correlate.
   -Will evaluate further after goals of care discussion with family today
   # FEN: No IVF, replete electrolytes, low salt diet with fluid
   restriction
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Code: DNR/DNI *confirmed, form in chart*
   # Communication: Patient, HCP Daughter [**Name (NI) 1076**].  Grandson [**Name (NI) 1071**] is a
   resident at NYU ([**Telephone/Fax (1) 3507**].
   # Disposition: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-1-30**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2102-02-01 10:47:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo women with severe COPD with exacerbation, respiratory failure.
   Went off bipap yesterday, but has done well.  Lasix held due to HOTN.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2102-1-31**] 09:18 AM:  Shows mildly depressed
   LV function, mod pulm HTN.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2102-1-31**] 12:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-1**] 09:25 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-2-1**] 02:09 AM
   Pantoprazole (Protonix) - [**2102-2-1**] 09:02 AM
   Lorazepam (Ativan) - [**2102-2-1**] 09:02 AM
   Other medications:
   medrol 125mg q8h
   vanco
   norvasc
   zofran
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2102-2-1**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.6
   HR: 76 (76 - 112) bpm
   BP: 84/46(56) {68/38(52) - 149/116(121)} mmHg
   RR: 15 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    583 mL
                                                                    516 mL
   PO:
                                                                     60 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    523 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                  1,269 mL
                                                                    250 mL
   Urine:
                                                                  1,269 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -686 mL
                                                                    266 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 608 (330 - 608) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///36/
   Ve: 5.1 L/min
   Physical Examination
   General Appearance: Thin, mildly distressed
   CV: S1, S2
   Abdomen: Soft, NT
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Skin:  cool extremeties
   Neurologic: Responds to voice, c/o hallucinations
   Labs / Radiology
   11.6 g/dL
   270 K/uL
   124 mg/dL
   1.3 mg/dL
   36 mEq/L
   4.5 mEq/L
   43 mg/dL
   90 mEq/L
   138 mEq/L
   33.9 %
   15.7 K/uL
        [image002.jpg]
                             [**2102-1-30**]  03:16 PM
                             [**2102-1-30**]  03:32 PM
                             [**2102-1-30**]  07:48 PM
                             [**2102-1-31**]  03:31 AM
                             [**2102-1-31**]  03:08 PM
                             [**2102-2-1**]  06:44 AM
   WBC
   18.1
   15.7
   Hct
   34.7
   33.9
   Plt
   237
   270
   Cr
   1.1
   1.0
   1.3
   TropT
   0.41
   0.29
   0.26
   TCO2
   37
   Glucose
   148
   135
   124
   Other labs: PT / PTT / INR:12.5/30.3/1.1, CK / CKMB /
   Troponin-T:191/23/0.26, Differential-Neuts:95.0 %, Lymph:2.5 %,
   Mono:2.3 %, Eos:0.2 %, Albumin:4.1 g/dL, Ca++:9.2 mg/dL, Mg++:2.3
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Respiratory failure:  COPD exacerbation.  Improved respiratory status,
   but still in moderate distress.  No evidence of PNA.  Will treat
   bronchitis with just levofloxacin. D/C vanco and zosyn.
                        -  Taper steroids to prednisone 60mg.
   Hypervolemia:  seems euvolemic, stop lasix
   agitation/altered MS:  related to morphine and ativan, so will hold
   further doses.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-2-1**] 09:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-02 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2102-2-1**]:
   -Labile blood pressure responding to 2 250 boluses throughout the day
   -Tolerating venturi mask well
   -Changed from Solumedrol to Pred 60
   -D/C Vanc/Zosyn, levaquin only
   - Haldol 0.25mg PO x1 o/n
   This morning, the patient was mildly confused.  Not oriented to time,
   but to place and person.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2102-1-31**] 12:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-1**] 09:25 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-1**] 09:02 AM
   Lorazepam (Ativan) - [**2102-2-1**] 09:02 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-1**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-2**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 78 (76 - 103) bpm
   BP: 120/54(70) {62/33(45) - 133/94(107)} mmHg
   RR: 23 (13 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,222 mL
                                                                    228 mL
   PO:
                                                                    350 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    872 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    295 mL
   Urine:
                                                                    660 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    562 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///42/
   Physical Examination
   Gen: Thin elderly lady in no acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: S1 & S2 regular without murmur
   Respiratory / Chest: Diminshed breath sounds, mild crackles, no wheezes
   or rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Poor DP pulses
   Skin:  Warm
   Neurologic: Attentive, Follows commands
   Labs / Radiology
   263 K/uL
   10.0 g/dL
   119 mg/dL
   0.9 mg/dL
   42 mEq/L
   3.9 mEq/L
   44 mg/dL
   94 mEq/L
   138 mEq/L
   28.6 %
   18.8 K/uL
        [image002.jpg]
                             [**2102-1-30**]  03:16 PM
                             [**2102-1-30**]  03:32 PM
                             [**2102-1-30**]  07:48 PM
                             [**2102-1-31**]  03:31 AM
                             [**2102-1-31**]  03:08 PM
                             [**2102-2-1**]  06:44 AM
                             [**2102-2-2**]  03:48 AM
   WBC
   18.1
   15.7
   18.8
   Hct
   34.7
   33.9
   28.6
   Plt
   237
   270
   263
   Cr
   1.1
   1.0
   1.3
   0.9
   TropT
   0.41
   0.29
   0.26
   TCO2
   37
   Glucose
   148
   135
   124
   119
   Other labs: PT / PTT / INR:12.7/46.5/1.1, CK / CKMB /
   Troponin-T:191/23/0.26, Differential-Neuts:95.0 %, Lymph:2.5 %,
   Mono:2.3 %, Eos:0.2 %, Albumin:4.1 g/dL, Ca++:9.2 mg/dL, Mg++:2.5
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   86 F w/ pmh of COPD on home O2 w/ recent COPD flare transferred from
   OSH w/ persistent dyspnea. She is tolerating a Venturi mask today and
   is otherwise improving.
   # Dyspnea: Likely due to COPD and volume overload, PNA unlikely.
   Patient is much improved from admission, not requiring more than nasal
   cannula for respiratory support.
   - Changed Solumedrol to Prednisone 60mg PO Qday yesterday, the patient
   will need 2 week taper
   - Frequent alb/ipratrop nebs
   - BiPAP as needed, titrate O2sats 88-92%
   - Echo showed normal function
   - The patient did not tolerate Morphine as she had hallucinations
   - D/C
ed Vanc/zosyn yesterday, Continue Levaquin for COPD exacerbation
   for a 7 day course
   - No further use for lasix, no longer volume overloaded
   # Leukocytosis:  Increased today, Likely due to recent prednisone as
   elevated but no left shift.
   - Antibiotics per above
   - Trend fever curve, WBC count
   # HTN:  Restarted amlodipine.  BP stable.  Continue to monitor closely
   #Hypercalcemia- Resolved.
   -Will continue to follow and obtain albumin to correlate.
   # FEN: No IVF, replete electrolytes prn, low salt diet with fluid
   restriction
   # Prophylaxis: Subcutaneous heparin [**Hospital1 **]
   # Access: peripherals
   # Code: DNR/DNI *confirmed, form in chart*
   # Communication: Patient, HCP Daughter [**Name (NI) 1076**].  Grandson [**Name (NI) 1071**] is a
   resident at NYU ([**Telephone/Fax (1) 3507**].
   # Disposition: will transfer to the floor today
 HYPOTENSION (NOT SHOCK)
 DYSPNEA (SHORTNESS OF BREATH)
   ICU Care
   Nutrition:
   Low salt diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-2-1**] 09:00 AM
   Prophylaxis:
   DVT:  heparin sc bid
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:  transfer to the medical floor today

2102-02-02 11:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo women with severe COPD admitted with exacerbation.  Some HOTN
   overnight, responded to IVF, otherwise did well.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2102-1-31**] 12:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-1**] 09:25 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-2**] 09:27 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-2**] 09:27 AM
   Other medications:
   asa
   atrovent
   norvasc
   SSI
   levoflox
   prednisone 60mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-2**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 90 (77 - 103) bpm
   BP: 102/46(60) {62/33(45) - 133/94(107)} mmHg
   RR: 26 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,222 mL
                                                                    269 mL
   PO:
                                                                    350 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    872 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    475 mL
   Urine:
                                                                    660 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    562 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///42/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): person and place
   , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   263 K/uL
   119 mg/dL
   0.9 mg/dL
   42 mEq/L
   3.9 mEq/L
   44 mg/dL
   94 mEq/L
   138 mEq/L
   28.6 %
   18.8 K/uL
        [image002.jpg]
                             [**2102-1-30**]  03:16 PM
                             [**2102-1-30**]  03:32 PM
                             [**2102-1-30**]  07:48 PM
                             [**2102-1-31**]  03:31 AM
                             [**2102-1-31**]  03:08 PM
                             [**2102-2-1**]  06:44 AM
                             [**2102-2-2**]  03:48 AM
   WBC
   18.1
   15.7
   18.8
   Hct
   34.7
   33.9
   28.6
   Plt
   237
   270
   263
   Cr
   1.1
   1.0
   1.3
   0.9
   TropT
   0.41
   0.29
   0.26
   TCO2
   37
   Glucose
   148
   135
   124
   119
   Other labs: PT / PTT / INR:12.7/46.5/1.1, CK / CKMB /
   Troponin-T:191/23/0.26, Differential-Neuts:95.0 %, Lymph:2.5 %,
   Mono:2.3 %, Eos:0.2 %, Albumin:4.1 g/dL, Ca++:9.2 mg/dL, Mg++:2.5
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Severe COPD with acute exacerbation/respiratory distress:  Much
   improved.  Now on nasal cannula.  Continue steroid taper over total of
   two weeks.
   Continue levoflox for 7 days.
   HTN control.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-2-1**] 09:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes